US06384047B1
1. (−)-cis-8,9-Diethoxy-2-methyl-6-[4-(p-toluenesulfonamido)-phenyl]-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine
A solution of 2.3 g p-toluenesulfonic acid chloride in 5 ml absolute dichloromethane is added dropwise to a solution of 3.5 g (−)-cis-6-(4-Aminophenyl)-8,9-diethoxy-2-methyl-1,2,3,4,4a,10b-hexahydrobenzo-[c][1,6]naphthyridine in 20 ml absolute pyridine, and the mixture is then stirred at room temperature for a further 3 h. After the evaporation of the solvents, the residue is extracted with dilute sodium hydroxide solution and dichloromethane. The organic phase is then washed with water, dried over sodium sulfate and concentrated. 5.4 g of the title compound are obtained as rough product, which is recrystallised twice in ethyl acetate/methanol. Yield: 4.3 g yellowish crystalls. M.p. 267-268° C.

reactant | p-toluenesulfonic acid chloride | 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (−)-cis-6-(4-Aminophenyl)-8,9-diethoxy-2-methyl-1,2,3,4,4a,10b-hexahydrobenzo-[c][1,6]naphthyridine | 3.5 g | NC1=CC=C(C=C1)C1=N[C@H]2CCN(C[C@H]2C2=C1C=C(C(=C2)OCC)OCC)C | C23H29N3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (−)-cis-8,9-Diethoxy-2-methyl-6-[4-(p-toluenesulfonamido)-phenyl]-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | 5.4 g | C(C)OC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)NS(=O)(=O)C2=CC=C(C=C2)C)C1)OCC | C30H35N3O4S
